US07279481B2
5-methyl-2-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2,4-dihydro-3H-pyrazol-3-one (E168)
The title compound was prepared in 58% yield according to the general procedure for the preparation of amides, ureas and carbamates (Method A) starting from 5-{4-[2-(3-iodophenyl)ethyl]-1-piperazinyl}-2-methylquinoline and 5-methyl-2,4-dihydro-3H-pyrazol-3-one.

reactant | 5-{4-[2-(3-iodophenyl)ethyl]-1-piperazinyl}-2-methylquinoline | IC=1C=C(C=CC1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C22H24IN3
reactant | 5-methyl-2,4-dihydro-3H-pyrazol-3-one | CC=1CC(NN1)=O | C4H6N2O
product | 5-methyl-2-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2,4-dihydro-3H-pyrazol-3-one | 58% yield | CC=1CC(N(N1)C1=CC(=CC=C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)=O | C26H29N5O
